US05998439
Synthesis of 2,2,2-trifluoroethyl trifluoromethanesulfonate
Combine 2,2,2-trifluoroethanol (12.4 mL g, 170 mmol), pyridine (13.6 mL, 170 mmol), and dichloromethane (40 mL). Cool in an ice bath. Add trifluoromethanesulfonic anhydride (50 g, 196 mmol) over about 45 minutes. After 15 minutes, add water, separate the layers and extract the organic layer with water. Dry the organic layer over MgSO4, filter, and concentrate through a short path distillation apparatus to give the title compound: bp 89-91° C.

reactant | 2,2,2-trifluoroethanol | 170 mmol, 12.4 mL | FC(CO)(F)F | C2H3F3O
reactant | pyridine | 170 mmol, 13.6 mL | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
reactant | trifluoromethanesulfonic anhydride | 196 mmol, 50 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | O | H2O
product | 2,2,2-trifluoroethyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
